US05385925
4'-[[2-Methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl]methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared analogously to Example 41 from 4'-[[2-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl]methyl]-2-cyano-biphenyl and sodium azide in dimethylformamide.

reactant | 4'-[[2-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl]methyl]-2-cyano-biphenyl | CC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C=C(C=C2)C2=NC1=C(N2C)C=CC=C1 | C30H23N5
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4'-[[2-Methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl]methyl]-2-(1H-tetrazol-5-yl)-biphenyl | CC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2)C2=NC1=C(N2C)C=CC=C1 | C30H24N8
